US07759337B2
Step 3: 3-Bromopyrido[2,3-d]pyridazin-8(7H)-one
To a solution of methyl 5-bromo-3-methylpicolinate (1.785 g, 7.76 mmol) in 30 mL of CCl4 was added N-bromosuccinimide (4.23 g, 23.8 mmol) and benzoyl peroxide (0.199 g, 0.822 mmol). The reaction was heated at 77° C. for 6 h. The reaction mixture was cooled to RT, filtered through a pad of Celite and washed with CCl4. The filtrate was evaporated in vacuo to give a yellow oil. The oil was dissolved in 40 mL MeOH and anhydrous hydrazine (3.00 ml, 95.6 mmol) was added dropwise at 25° C. Upon complete addition the reaction mixture was heated at 78° C. overnight. The reaction mixture was cooled to RT and the solid was filtered, washed with MeOH and CHCl3 and dried by suction. The filtrate was evaporated onto silica gel and purified flash chromatography eluting with 2M NH3 in MeOH:CHCl3 (0:1→3:47) to give the title compound as a light-yellow amorphous solid. MS m/z: 225.9, 227.9 [M+1].

reactant | methyl 5-bromo-3-methylpicolinate | 7.76 mmol, 1.785 g | BrC=1C=C(C(=NC1)C(=O)OC)C | C8H8BrNO2
reactant | N-bromosuccinimide | 23.8 mmol, 4.23 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.822 mmol, 0.199 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hydrazine | 95.6 mmol, 3.00 ml | NN | H4N2
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | MeOH | 40 mL | CO | CH4O
product | 3-Bromopyrido[2,3-d]pyridazin-8(7H)-one | BrC1=CC2=C(C(NN=C2)=O)N=C1 | C7H4BrN3O
